US06380239B1
A mixture of glutamine (10 mmol) and 4-nitrophthalic anhydride (10 mmol) in 15 mL of acetic acid is heated to reflux. The cooled reaction mixture is concentrated and the residue purified by chromatography to afford 2-(4-nitro-1-oxoisoindolin-2-yl)-4-carbamoylbutanoic acid.

reactant | glutamine | 10 mmol | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | 4-nitrophthalic anhydride | 10 mmol | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 2-(4-nitro-1-oxoisoindolin-2-yl)-4-carbamoylbutanoic acid | [N+](=O)([O-])C1=C2CN(C(C2=CC=C1)=O)C(C(=O)O)CCC(N)=O | C13H13N3O6
